US07776910B2
KHMDS (0.5 M in toluene, 186 mL, 0.09303 mol) was added at 0° C. to methanesulfonic acid 3-(4-bromo-2-methyl-phenyl)-4-tert-butoxycarbonylamino-butyl ester (36.9 g, 0.08457 mol) dissolved in THF (400 mL). The ice-bath was removed and the mixture was stirred at room temperature for 2 hours. A saturated solution of NH4Cl was added to the reaction mixture and the resulting mixture was extracted with EtOAc. The combined organic extracts were washed with water and brine, dried over MgSO4, filtered, and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc, 8/2) to give 27.3 g (95% yield) of 3-(4-bromo-2-methyl-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a clear oil.

reactant | KHMDS | 0.09303 mol, 0.5 M, 186 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | methanesulfonic acid 3-(4-bromo-2-methyl-phenyl)-4-tert-butoxycarbonylamino-butyl ester | 0.08457 mol, 36.9 g | BrC1=CC(=C(C=C1)C(CCOS(=O)(=O)C)CNC(=O)OC(C)(C)C)C | C17H26BrNO5S
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 3-(4-bromo-2-methyl-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 27.3 g, 95% yield | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)Br)C | C16H22BrNO2
